US09427418B2
Synthesis of 4-((4-fluorophenyl)(4-hydroxybenzyl)amino)phenol (VIII)
Compound N-(4-fluorophenyl)-4-hydroxy-N-(hydroxyphenyl)benzamide (0.30 g, 0.93 mmol) was dissolved in 20 mL anhydrous THF at room temperature. H3B(SMe2) (1.86 mL of 2M THF solution, 3.71 mmol) was added via a syringe at room temperature under argon. The reaction solution was stirred and heated to reflux for 6 hours. Then, the reaction was quenched by adding 10 mL of MeOH at 0° C. The solvent was removed under reduced pressure. The residue was subjected to flash column chromatography (silica-gel, CH2Cl2/MeOH=9/1 v/v) to give a yellow oil, 0.26 g, 92% yield. 1H NMR (DMSO-d6, 500 MHz) δ 9.29 (s, 1H), 9.24 (s, 1H), 7.09 (d, 2H, J=8.3 Hz), 6.98 (d, 2H, J=9.0 Hz), 6.94-6.91 (m, 2H), 6.73 (d, 2H, J=9.0 Hz), 6.68-6.64 (m, 4H), 4.70 (s, 2H). MS m/z 307.8 (M−H)−.

reactant | N-(4-fluorophenyl)-4-hydroxy-N-(hydroxyphenyl)benzamide | 0.93 mmol, 0.30 g | FC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)O)=O)C1=C(C=CC=C1)O | C19H14FNO3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-((4-fluorophenyl)(4-hydroxybenzyl)amino)phenol | 92% yield | FC1=CC=C(C=C1)N(C1=CC=C(C=C1)O)CC1=CC=C(C=C1)O | C19H16FNO2
